US08865713B2
Step C: 1-(5-benzylsulfanyl-6-chloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
To a mixture of 1-[5-benzylsulfanyl-6-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (96.0 mg, 0.192 mmol) and EtOH (5 mL) was added 4M HCl in dioxane (5 mL, 20 mmol). The mixture was stirred for 18 h at 23° C. The reaction mixture was concentrated under reduced pressure and the resulting residue was triturated in Et2O. The resultant suspension was filtered and washed with Et2O to yield the titled compound (69.0 mg, 87%). MS (ESI/CI): mass calcd. for C20H17ClN4O2S, 412.1; m/z found, 413.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 13.53 (d, J=12.3 Hz, 1H), 8.95 (s, 1H), 8.35 (s, 1H), 7.78 (s, 0.5H), 7.65 (s, 0.5H), 7.55 (s, 0.5H), 7.44 (s, 0.5H), 7.38 (d, J=7.2 Hz, 2H), 7.31 (t, J=7.4 Hz, 2H), 7.25 (s, 1H), 4.32-4.26 (m, 4H), 1.32 (t, J=7.1 Hz, 3H).

reactant | 1-[5-benzylsulfanyl-6-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.192 mmol, 96.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)SCC2=CC=CC=C2)Cl | C24H25ClN4O4S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 20 mmol, 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-(5-benzylsulfanyl-6-chloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 69.0 mg, 87% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)SCC2=CC=CC=C2)Cl | C20H17ClN4O2S
